US06989467B2
Synthesis of 4-vinylguaiacol (by microwave irradiation method):
A mixture of vanillin (2.50 g, 0.0164 mol), malonic acid (3.41 g, 0.0328 mol), piperidine (3–5 ml) and acetic acid (10–20 mL) were taken in a 100 ml Erlenmeyer flask fitted with a loose funnel at the top. The flask was shaken well and placed inside the microwave oven and irradiated for 1–7 minutes in parts. The cooled mixture was poured into ice-cold water and extracted with ethyl acetate. The organic layer was washed with dil HCl., saturated sodium chloride and then organic layer dried over sodium sulphate. The solvent was evaporated under reduced pressure to obtain liquid which was purified on silica gel column chromatography using mixture of hexane and ethyl acetate (9:1 to 6:4), provided sweet and pleasant smelling liquid in 51% yield; 1H NMR (CDCl3) δ 6.96 (3H, m, 3,5,6-Ar), 6.70 (1H, dd, J=7.8 Hz, CH═CH2), 5.93 (1H, s, OH), 5.66 (1H, d, J=17.6, cis-CH═CH2), 5.19 (1H, d, J=10.9 Hz, trans-CH═CH2), 3.90 (3H, s, OMe); 13C NMR (CDCl3) δ 147.1 (C-1), 146.07 (C-2), 137.1 (CH═CH2), 130.7 (C-4), 120.4 (C-6), 114.9 (C-5), 111.8 (CH═CH2), 108.5 (C-3), 56.2 (OCH3).

reactant | vanillin | 0.0164 mol, 2.50 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | malonic acid | 0.0328 mol, 3.41 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 3–5 ml | N1CCCCC1 | C5H11N
solvent | acetic acid | 10–20 mL | C(C)(=O)O | C2H4O2
product | 4-vinylguaiacol | 51% yield | C(=C)C=1C=C(C(=CC1)OC)O | C9H10O2
